US09034866B2
10-Bromo-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide (5 g) was subjected similar to as described in Example 6 to yield 4.2 g of methyl 10-bromo-2-carbamoyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylate. Methyl 10-bromo-2-carbamoyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylate (0.52 g) was subjected to lithium hydroxide water/THF to give 0.44 g of 10-bromo-2-carbamoyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid. 10-bromo-2-carbamoyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (0.44 g) was reacted with Methylamine hydrochloride similar to as described in Example 2 to afford 314 mg 10-bromo-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following triteration from water. 10-bromo-9-fluoro-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide (0.1 g) was then reacted with (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol similar to as described in Procedure G to afford 43.9 mg of 10-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 436 (M)+. 1H NMR (400 MHz, DMSO) δ 11.06 (q, J=4.3 Hz, 1H), 8.55 (d, J=2.0 Hz, 1H), 8.33 (s, 1H), 7.88 (s, 1H), 7.40 (dd, J=8.5, 2.0 Hz, 1H), 7.06 (d, J=8.5 Hz, 1H), 6.47 (s, 1H), 6.36 (s, 1H), 5.04-4.91 (m, 2H), 4.57-4.44 (m, 2H), 2.81 (d, J=4.5 Hz, 3H), 2.41 (s, 3H), 1.81 (s, 3H).

reactant | 10-bromo-9-fluoro-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 0.1 g | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC)C1)F | C14H12BrFN4O3
reactant | (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
product | 10-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 43.9 mg | O[C@@](C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC)C1)(C)C1=NOC(=C1)C | C22H21N5O5
